US05608109
Production of 2-[3-carbamoyl-1-(3-trifluoromethylphenyl)propyl]-N-(4-trifluoromethoxyphenyl)hydrazinecarboxamide (compound No. 390)
In a mixed solvent of 15 ml of tetrahydrofuran and 15 ml of methanol was dissoved 0.46 g (1.0 mmole) of 2-[3-carbamoyl-1-(3-trifluoromethylphenyl)propylidene]-N-(4-trifluoromethoxyphenyl)hydrazinecarboxamide, after which to the resulting solution were added 0.46 g (7.7 mmoles) of sodium cyanoborohydride and then 5 drops of a saturated methanolic solution of hydrochloric acid, and the reaction was carried out for 36 hours.

reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | 2-[3-carbamoyl-1-(3-trifluoromethylphenyl)propylidene]-N-(4-trifluoromethoxyphenyl)hydrazinecarboxamide | 1.0 mmole, 0.46 g | C(N)(=O)CCC(C1=CC(=CC=C1)C(F)(F)F)=NNC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C19H16F6N4O3
reactant | sodium cyanoborohydride | 7.7 mmoles, 0.46 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 2-[3-carbamoyl-1-(3-trifluoromethylphenyl)propyl]-N-(4-trifluoromethoxyphenyl)hydrazinecarboxamide | C(N)(=O)CCC(C1=CC(=CC=C1)C(F)(F)F)NNC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C19H18F6N4O3
